US04785017
Using the procedure of Example 1, 15 g of 2',5'-dihydroxyacetophenone was condensed with 14.2 g of ethyl levulinate and 12.3 ml of pyrrolidine, in 200 ml of toluene. The crude product (20.5 g) was purified by high pressure liquid chromatography (silica gel; 2:1 hexane-ethyl acetate) giving 17.6 g (64.1%) of racemic-3,4-dihydro-6-hydroxy-2-methyl-4-oxo-2H-1-benzopyran-2-propanoic acid ethyl ester as a yellow oil.

reactant | 2',5'-dihydroxyacetophenone | 15 g | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | ethyl levulinate | 14.2 g | C(CCC(=O)C)(=O)OCC | C7H12O3
reactant | pyrrolidine | 12.3 ml | N1CCCC1 | C4H9N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | racemic-3,4-dihydro-6-hydroxy-2-methyl-4-oxo-2H-1-benzopyran-2-propanoic acid ethyl ester | 17.6 g, 64.1% | C(C)OC(CCC1(OC2=C(C(C1)=O)C=C(C=C2)O)C)=O | C15H18O5
